US06812225B2
Ethyl-5-methyl-8-(4-Methyl-piperazin-1-y)-4-oxo-4H-chromene-2-carboxylate
Ethyl 5-methyl-8-chloro-4-oxo-4H-chromene-2-carboxylate (1.0 g, 3.6 mmol) as prepared in Reference Example 6c above, was azeotroped with anhydrous toluene then the white solid was dissolved in 100 ml anhydrous toluene in a 250 mL single-neck round bottom flask. The mixture was degassed by alternating argon sparge and vacuum (3×), and the following were added in order: N-methylpiperazine (0.6 ml, 5.37 mmol), (2′-dicyclohexylphosphanyl-biphenyl-2-yl)dimethyl-amine (JACS 1998, 120, p 9722) (40 mg, 0.1 mmol), tris(dibenzylideneacetone)dipalladium(0) (66 mg, 0.072 mmol) then cesium carbonate (1.6 g, 5.37 mmol). The mixture was again degassed via alternating argon sparge and vacuum and was heated at 80° C. for 17 h. Additional tris(dibenzylideneacetone)dipalladium(0) (66 mg, 0.072 mmol) and (2′-dicyclopentylphosphanyl-biphenyl-2-yl)-dimethyl-amine (40 g, 0.1 mmol) were added and the reaction was stirred at 80° C. for another four days at which time the conversion was still only about 50% complete by HPLC. Tetrahydrofuran (100 mL) was added, and the combined mixture was filtered, concentrated under vacuum and purified by chromatography on silica eluted with 2.5% methanol in chloroform. The desired fractions were concentrated under vacuum to yield a yellow powder (250 mg=21%).

reactant | Ethyl 5-methyl-8-chloro-4-oxo-4H-chromene-2-carboxylate | 3.6 mmol, 1.0 g | CC1=C2C(C=C(OC2=C(C=C1)Cl)C(=O)OCC)=O | C13H11ClO4
reactant | N-methylpiperazine | 5.37 mmol, 0.6 ml | CN1CCNCC1 | C5H12N2
reactant | (2′-dicyclohexylphosphanyl-biphenyl-2-yl)dimethyl-amine | 0.1 mmol, 40 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | cesium carbonate | 5.37 mmol, 1.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (2′-dicyclopentylphosphanyl-biphenyl-2-yl)-dimethyl-amine | 0.1 mmol, 40 g | C1(CCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCC1 | C24H32NP
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.072 mmol, 66 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.072 mmol, 66 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | Ethyl-5-methyl-8-(4-Methyl-piperazin-1-y)-4-oxo-4H-chromene-2-carboxylate | C(C)OC(=O)C=1OC2=C(C=CC(=C2C(C1)=O)C)N1CCN(CC1)C | C18H22N2O4
